US08497264B2
In a microwave vial, (S)-2′-(3,6-dihydro-2H-pyran-4-yl)-4′-fluoro-7′-(2-fluoropyridin-3-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine (0.040 g, 0.087 mmol) and Pd/C (10%, 0.055 g, 0.052 mmol) were suspended in EtOH (1.5 mL). A balloon full of hydrogen (˜1 L) was emptied into the vessel, venting through a needle, and the vessel was sealed. After 2 days, the mixture was filtered through Celite, rinsing with 5% MeOH-DCM. The filtrate was concentrated, and the residue was purified by chromatography (7.5% MeOH/DCM) to afford 29 mg of (S)-4′-fluoro-7′-(2-fluoropyridin-3-yl)-2′-(tetrahydro-2H-pyran-4-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine

reactant | (S)-2′-(3,6-dihydro-2H-pyran-4-yl)-4′-fluoro-7′-(2-fluoropyridin-3-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine | 0.087 mmol, 0.040 g | O1CCC(=CC1)C1=CC=2[C@@]3(C4=CC(=CC=C4OC2C(=C1)F)C=1C(=NC=CC1)F)COCC(=N3)N | C26H21F2N3O3
reactant | hydrogen | ˜1 L | [H][H] | H2
solvent | EtOH | 1.5 mL | CCO | C2H6O
catalyst | Pd/C | 0.052 mmol, 0.055 g | [Pd] | Pd
product | (S)-4′-fluoro-7′-(2-fluoropyridin-3-yl)-2′-(tetrahydro-2H-pyran-4-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine | 29 mg | FC1=CC(=CC=2[C@@]3(C4=CC(=CC=C4OC12)C=1C(=NC=CC1)F)COCC(=N3)N)C3CCOCC3 | C26H23F2N3O3
